US08859580B2
4-Methyl-2-phenylethynyl-pyridine
Phenylacetylene (15.4 mL) is added to a mixture of 2-bromo-4-methyl-pyridine (20.0 g), CuI (2.2 g), and Pd(PPh3)2Cl2 (4.1 g) in triethylamine (600 mL) kept under argon atmosphere. The mixture is stirred at ambient temperature overnight. Then, water is added and the resulting mixture is extracted with diethylether. The combined organic extracts are washed with brine and dried (MgSO4). The solvent is removed under reduced pressure and the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 9:1->4:1) to give the product as an oil.

reactant | Phenylacetylene | 15.4 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-bromo-4-methyl-pyridine | 20.0 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | water | O | H2O
solvent | triethylamine | 600 mL | C(C)N(CC)CC | C6H15N
catalyst | CuI | 2.2 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 4.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Methyl-2-phenylethynyl-pyridine | CC1=CC(=NC=C1)C#CC1=CC=CC=C1 | C14H11N
